US07423150B2
The mixture containing N-(4-(4-(methylamino)-3-nitrophenoxy)pyridin-2-yl)-2-chloroacetamide (1 eq), 1-ethylpiperazine (3 eq), and potassium carbonate (4 eq) was stirred in dimethylformamide at 60° C. for 1 hour. The reaction mixture was then concentrated and partitioned between ethyl acetate and water. The organic layer was separated and washed with water then brine, dried over sodium sulfate and concentrated to give orange solid. Purification on silica gel with 20% methanol in methylene chloride gave N-(4-(4-(methylamino)-3-nitrophenoxy)pyridin-2-yl)-2-(4-ethylpiperazin-1-yl)acetamide as a red solid. HPLC=3.26 min; MS: MH+=415.

reactant | N-(4-(4-(methylamino)-3-nitrophenoxy)pyridin-2-yl)-2-chloroacetamide | 1 eq | CNC1=C(C=C(OC2=CC(=NC=C2)NC(CCl)=O)C=C1)[N+](=O)[O-] | C14H13ClN4O4
reactant | 1-ethylpiperazine | 3 eq | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 4 eq | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(4-(4-(methylamino)-3-nitrophenoxy)pyridin-2-yl)-2-(4-ethylpiperazin-1-yl)acetamide | CNC1=C(C=C(OC2=CC(=NC=C2)NC(CN2CCN(CC2)CC)=O)C=C1)[N+](=O)[O-] | C20H26N6O4
